US08003647B2
Cyano-(4-methoxy-5-methyl-2-nitrophenyl)acetic acid methyl ester
To a suspension of sodium hydride (0.86 g) in N,N-dimethylformamide (5 mL) was added dropwise a solution of cyano acetic acid methyl ester (0.35 g) in N,N-dimethylformamide (3 mL) under ice cooling and this mixture was stirred for 15 minutes. To this reaction mixture was added dropwise a solution of 1-fluoro-4-methoxy-5-methyl-2-nitrobenzene (0.44 g) under ice cooling and this mixture was stirred at room temperature for 30 minutes, and then stirred at 70° C. overnight. After cooling to ambient temperature, 1 mol/L hydrochloric acid (5 mL) was added to this reaction mixture. This resulting mixture was extracted with ethyl acetate. This organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate) to give the title compound (0.45 g).

reactant | sodium hydride | 0.86 g | [H-].[Na+]
reactant | cyano acetic acid methyl ester | 0.35 g | COC(CC#N)=O | C4H5NO2
reactant | 1-fluoro-4-methoxy-5-methyl-2-nitrobenzene | 0.44 g | FC1=C(C=C(C(=C1)C)OC)[N+](=O)[O-] | C8H8FNO3
reactant | hydrochloric acid | 1 mol/L, 5 mL | Cl | ClH
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | Cyano-(4-methoxy-5-methyl-2-nitrophenyl)acetic acid methyl ester | 0.45 g | COC(C(C1=C(C=C(C(=C1)C)OC)[N+](=O)[O-])C#N)=O | C12H12N2O5
